US04230703
Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate (0.750 g) was dissolved in chloroform (10 ml), and N-bromosuccinimide (0.550 g) was added to the solution. The mixture was refluxed overnight, and cooled. The mixture was then washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give an oily material. A 10% sodium carbonate aqueous solution (15 ml) and ethanol (10 ml) were added to the oily material, and the mixture was refluxed overnight. The contents were concentrated to 1/3 the original volume under reduced pressure with heating. The concentrate was treated with activated carbon powder, and acidified with 10% HCl with ice cooling. The precipitated crystals were collected by filtration and recrystallized from acetone to afford 5,6-dihydro-4-bromo-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid (prismatic crystals, 0.100 g) having a melting point of 164°-167° C.

reactant | Methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-2-acetate | 0.750 g | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OC | C18H17NO3
reactant | N-bromosuccinimide | 0.550 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,6-dihydro-4-bromo-5-methyl-11-oxodibenz[b,e]azepine-2-acetic acid | 0.100 g | BrC1=CC(=CC2=C1N(CC1=C(C2=O)C=CC=C1)C)CC(=O)O | C17H14BrNO3
